US04346218
Man adds triethylamine (5.68 ml) to a stirred suspension of p-nitrobenzyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate (9.06 g) in tetrahydrofuran (120 ml) under nitrogen atmosphere at -20° C. to give clear solution, adds methanesulfonyl chloride (1.65 ml) to the solution, stirs for 30 minutes at the same temperature, adds morpholine (1.92 ml), warms to 0° C., stirs for 5 hours, cools to -30° C. to -35° C., adds pyridine (1.54 ml) and bromine (3.12 g), stirs for 20 minutes, warms to ice-water temperatur, adds 5% hydrochloric acid (144 ml) and methanol (120 ml), stirs for 3 hours at room temperature, and lefts stand overnight at 0° C. Collection of the separated crystals in the reaction mixture by filtration gives p-nitrobenzyl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate (6.678 g). m.p. 201° C. Yield: 71%.

reactant | Man | OC1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
reactant | p-nitrobenzyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate | 9.06 g | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O6S
reactant | methanesulfonyl chloride | 1.65 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | morpholine | 1.92 ml | N1CCOCC1 | C4H9NO
reactant | bromine | 3.12 g | BrBr | Br2
reactant | hydrochloric acid | 144 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | methanol | 120 ml | CO | CH4O
solvent | pyridine | 1.54 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 5.68 ml | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate | 6.678 g, Yield: 71% | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O7S
